US08022062B2
4-(1-Methyl-1H-imidazol-2-yl)-benzylamine:
Dissolve [4-(1-methyl-1H-imidazol-2-yl)-benzyl]-carbamic acid tert-butyl ester (500 mg, 1.7 mmol) in DCM (20 mL) and trifluoroacetic acid (5 mL). Stir the mixture for 1 h at ambient temperature. Concentrate in vacuo and purify by SCX chromatography to obtain the title compound (240 mg, 74%). MS (ES+) m/z: 188 (M+H)+.

reactant | [4-(1-methyl-1H-imidazol-2-yl)-benzyl]-carbamic acid tert-butyl ester | 1.7 mmol, 500 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C=1N(C=CN1)C)=O | C16H21N3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(1-Methyl-1H-imidazol-2-yl)-benzylamine | 240 mg, 74% | CN1C(=NC=C1)C1=CC=C(CN)C=C1 | C11H13N3
